US06921762B2
5-(4-fluorophenyl)-3-methyl-2-methylthio-6-(4-pyridyl)-3H-pyrimidin-4-one (0.327 g, 1 mmol) and 5 ml of POCl3 in a 15-ml r.b.flask with a stir bar was stirred at 120° C. for 16 h. The remaining POCL3 was evaporated in vacuo. The dark brown residue was mixed with ice-water. The resulting acidic dark brown solution was neutralized to pH 7-8 with sat'd NaHCO3 and extracted by EtOAc (2×10 ml). The combined organic layers were washed with brine (10 ml) and dried over Na2SO4. 4-chloro-5-(4-fluorophenyl)-2-methylthio-6-(4-pyridyl)pyrimidine was isolated by flash chromatography with 50% EtOAc in hexane; MS: m/z (M+H)+ 332; C16H11ClFN3S requir.331.8.

reactant | 5-(4-fluorophenyl)-3-methyl-2-methylthio-6-(4-pyridyl)-3H-pyrimidin-4-one | 1 mmol, 0.327 g | FC1=CC=C(C=C1)C=1C(N(C(=NC1C1=CC=NC=C1)SC)C)=O | C17H14FN3OS
reactant | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5-(4-fluorophenyl)-2-methylthio-6-(4-pyridyl)pyrimidine | ClC1=NC(=NC(=C1C1=CC=C(C=C1)F)C1=CC=NC=C1)SC | C16H11ClFN3S
